US05688799
A mixture of 9-(ethoxymethoxy)-3-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one (0.008 mol) in hydrochloric acid, 12N (25 ml) and ethanol (100 ml) was stirred and refluxed for 6 hours. The reaction mixture was cooled and the precipitate was filtered off and dried, yielding 4 g (95.7%) 3-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-9-hydroxy-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one.dihydrochloride.sesquihydrate; mp. 288.3° C. (interm. 18).

reactant | 9-(ethoxymethoxy)-3-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 0.008 mol | C(C)OCOC1=CC=CN2C1=NC(=C(C2=O)CCN2CCC(CC2)C2=NOC1=C2C=CC(=C1)F)C | C26H29FN4O4
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
product | 3-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-9-hydroxy-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one.dihydrochloride | 4 g, 95.7% | Cl.Cl.FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC2=C(N=C3N(C2=O)C=CC=C3O)C)C=C1 | InChI=1S/C23H23FN4O3.2ClH/c1-14-17(23(30)28-9-2-3-19(29)22(28)25-14)8-12-27-10-6-15(7-11-27)21-18-5-4-16(24)13-20(18)31-26-21;;/h2-5,9,13,15,29H,6-8,10-12H2,1H3;2*1H
